US06677349B1
Using the general method of Example 232, 4-(2-hexyl-1H-imidazo[4,5-c]quinolin-1-yl)butan-1-amine (1.00 g, 3.1 mmol) was reacted with methanesulfonyl choride (0.48 mL, 6.2 mmol) to provide 1.15 g of N-[4-(2-hexyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]methanesulfonamide as a white solid.

reactant | 4-(2-hexyl-1H-imidazo[4,5-c]quinolin-1-yl)butan-1-amine | 3.1 mmol, 1.00 g | C(CCCCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCCN | C20H28N4
reactant | methanesulfonyl choride | 6.2 mmol, 0.48 mL | CS(=O)(=O)Cl | CH3ClO2S
product | N-[4-(2-hexyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]methanesulfonamide | 1.15 g | C(CCCCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCCNS(=O)(=O)C | C21H30N4O2S
